US05380718
Step A: 3-Phenyl-4-oxo-benzenebutanoic acid
To a solution of 6.0 g of 60% sodium hydride in 150 ml of THF was added dropwise a solution of 29.4 g of deoxybenzoin in 150 ml THF. The mixture was stirred for 10 min., 16.8 ml of ethylbromoacetate was added dropwise, and the reaction was then heated at reflux under nitrogen overnight. The reaction was then partitioned between ether and 5% aqueous sodium bicarbonate, washed twice with ether dried over magnesium sulfate, filtered and concentrated to 41.08 g of a brown oil. The crude product was mixed with 200 ml of methanol, 30 ml of water and 10 ml of 50% sodium hydroxide and then heated to reflux under nitrogen overnight. After this time the reaction was concentrated, partitioned between water and ether, washed twice with ether and dried over magnesium sulfate. The ether extracts were then concentrated and the residue triturated with cold ether to afford 6.45 gms of a yellow solid, mp 137-139° C. 1H NMR (CDCl3) δ: 2.74 (dd, 1H), 3.43 (dd, 1H), 5.04 (dd, 1H), 7.1-7.5 (m, 8H), 7.93 (d, 2H).

reactant | sodium hydride | 6.0 g | [H-].[Na+]
reactant | deoxybenzoin | 29.4 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | ethylbromoacetate | 16.8 ml | C(C)OC(CBr)=O | C4H7BrO2
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-Phenyl-4-oxo-benzenebutanoic acid | 6.45 gms | C1(=CC=CC=C1)C1C=C(C=CC1=O)CCCC(=O)O | C16H16O3
